US05795886
Alternative synthesis of (S)-α-methyl-1, 3-benzodioxole-5-ethanol
To a suspension of magnesium turnings (17 g) in 50 mL tetrahydrofuran was added dropwise a solution of 5-bromo-1,3-benzodioxole (93.6 g). After complete addition, the mixture was diluted with 250 mL tetrahydrofuran and the resulting mixture was stirred overnight. 13 mL of the solution (0.78M) was transferred to a round bottom flask containing copper (I) iodide (0.12 g). The resulting mixture was cooled to -50 ° C. and a solution of (S)-(-)-propylene oxide in 3 mL tetrahydrofuran was slowly added then stirred 10 min. The mixture was diluted with ether. The isolated organic phase was washed with water and brine. The aqueous wash was extracted with ether (2×) and the combined organic solutions were dried over magnesium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (50% ether in pentane) to give 1.66 g of the desired product (91%). Chiral HPLC analysis indicated that the optical purity of the material was 98.3%.

reactant | magnesium | 17 g | [Mg] | Mg
reactant | 5-bromo-1,3-benzodioxole | 93.6 g | BrC1=CC2=C(OCO2)C=C1 | C7H5BrO2
reactant | (S)-(-)-propylene oxide | C1[C@H](C)O1 | C3H6O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | copper (I) iodide | 0.12 g | [Cu]I
product | (S)-α-methyl-1, 3-benzodioxole-5-ethanol | 1.66 g, 91% | C[C@@H](CC1=CC2=C(OCO2)C=C1)O | C10H12O3
